US05082945
Perfluorobutyl iodide (3.5 g), sodium hydroxymethanesulphinate (4 g), benzyl disulphide (2.5 g) in dimethylformamide (10 cc) and water (0.5 cc) are stirred for 6 hours. After the usual treatment, benzyl perfluorobutyl sulphide is obtained, 17% yield.

reactant | Perfluorobutyl iodide | 3.5 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)I | C4F9I
reactant | sodium hydroxymethanesulphinate | 4 g | OCS(=O)[O-].[Na+]
reactant | benzyl disulphide | 2.5 g | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | water | 0.5 cc | O | H2O
product | benzyl perfluorobutyl sulphide | 17% yield | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)SCC1=CC=CC=C1 | C11H7F9S
